US05576343
Preparation of Methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-indolyl)propionate
In a solvent mixture of 50 ml of tetrahydrofuran and 50 ml of methanol were dissolved 5.0 g of (5-cyano-2-indolyl)methyltriphenylphosphonium bromide and 3.6 g of methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate. With stirring at room temperature, 1.07 g of 1,8-diazabicyclo[5.4.0]-7-undecene was added to the thus prepared solution, and the mixture was stirred at the same temperature for 2 hours. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a dichloromethane/acetone mixture as an eluant, thereby obtaining methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-indolyl)acrylate as a mixture of E and Z forms. The thus obtained compound was dissolved in a solvent mixture of 50 ml of tetrahydrofuran and 50 ml of methanol, and the resulting solution was mixed with 5.0 g of palladium oxide.1H2O.barium sulfate, and then subjected to catalytic hydrogenation under normal pressure. After removing the catalyst by filtration and distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a dichloromethane/acetone mixture as an eluant. In this way, 3.5 g of the title compound was obtained in a viscous and oily form.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | (5-cyano-2-indolyl)methyltriphenylphosphonium bromide | 5.0 g | [Br-].C(#N)C=1C=C2C=C(NC2=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate | 3.6 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)=O | C18H23NO6
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.07 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-indolyl)propionate | 3.5 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)CC=1NC2=CC=C(C=C2C1)C#N | C28H31N3O5
